US08703761B2
A mixture of 1.66 G (S)-pyrrolidine-2-carboxylic acid methyl ester, hydrochloride salt and 1.15 mL of 2-chlorobenzoxazole in 6 mL CH2Cl2 was subjected to microwave heating at 120° C. for 0.5 h. Solvent was evaporated. Purification by chromatography (SiO2, EtOAc/heptane) provided 2.283 g (93% yield) of (S)-1-benzooxazol-2-yl-pyrrolidine-2-carboxylic acid, methyl ester as a waxy white solid, m/z 247.16 (MH+). A mixture of 2.0 g of (S)-1-benzooxazol-2-yl-pyrrolidine-2-carboxylic acid, methyl ester and 1.02 G LiOH H2O in 15 mL MeOH and 15 mL water was stirred overnight at room temperature. The reaction was acidified with 1N HCl, was extracted three times with MeOH/CH2Cl2, was dried over Na2SO4 and was evaporated to provide the title compound. m/z 233.17 (MH+).

reactant | (S)-pyrrolidine-2-carboxylic acid methyl ester, hydrochloride salt | Cl.COC(=O)[C@H]1NCCC1
reactant | 2-chlorobenzoxazole | 1.15 mL | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-benzooxazol-2-yl-pyrrolidine-2-carboxylic acid, methyl ester | 2.283 g, 93% yield | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCC2)C(=O)OC | C13H14N2O3
